2156-08-24 07:07:00 Physician Resident Progress Note
Chief Complaint: This is a 59yo M w CAD s/p MI, DM, AFib, ? Hep C, CHF
   with EF 30-35%, ESRD on dialysis (Tue/[**Doctor First Name **]/Sat), polysubstance abuse,
   presents with aspitation pneumonia, altered mental status, ileus.
   24 Hour Events:
   Got HD yesterday
 1L out
   2 L fluid bolus for hypotension
   Changed Zosyn to Q12h - due to hemodialysis
   600cc stool this AM
 STOOL CULTURE - At [**2156-8-23**] 11:44 AM
 BLOOD CULTURED - At [**2156-8-23**] 12:17 PM
 BLOOD CULTURED - At [**2156-8-23**] 05:54 PM
 NASAL SWAB - At [**2156-8-23**] 05:54 PM
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-23**] 07:51 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2156-8-23**] 01:20 PM
   Lansoprazole (Prevacid) - [**2156-8-23**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-8-24**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-24**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 100 (91 - 103) bpm
   BP: 95/48(59) {88/47(57) - 121/70(78)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,113 mL
                                                                  2,325 mL
   PO:
             TF:
   IVF:
                                                                  1,113 mL
                                                                  2,325 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                  1,200 mL
   Urine:
                                                                     30 mL
   NG:
                                                                  1,900 mL
                                                                    600 mL
   Stool:
   600 mL
   Drains:
   Balance:
                                                                   -818 mL
                                                                  1,125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Alert, interactive
   CTAB
   RRR without rubs, gallops or murmurs
   Soft, nontender, nondistended, hyperactive bowel sounds
   Ext warm
   Labs / Radiology
   242 K/uL
   12.5 g/dL
   123 mg/dL
   4.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   27 mg/dL
   97 mEq/L
   141 mEq/L
   40.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2156-8-23**]  12:00 PM
                             [**2156-8-23**]  05:37 PM
                             [**2156-8-23**]  10:24 PM
                             [**2156-8-24**]  05:18 AM
   WBC
   6.3
   5.8
   Hct
   36.4
   40.5
   Plt
   248
   242
   Cr
   4.8
   TropT
   0.49
   0.46
   Glucose
   123
   Other labs: PT / PTT / INR:15.3/33.7/1.3, CK / CKMB /
   Troponin-T:230/5/0.46, Lactic Acid:1.7 mmol/L, Ca++:10.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Imaging: [**8-23**] KUB:
   An NG tube is seen ending below the diaphragm. Again seen are dilated
   loops
   of small and large bowel on this supine radiograph. No obvious
   transition
   point is seen with slight interval improvement from prior. Findings are
   consistent with small bowel ileus with mild interval improvement.
   Osseous
   structures are unremarkable.
   IMPRESSION:
   Mild improvement in small bowel ileus.
   [**8-24**]
   KUB Pending
   Microbiology: C.Diff Pending
   Blood Cx Pending
   MRSA screen Pending
   Assessment and Plan
   This is a 59yo M w CAD s/p MI, DM, AFib, ? Hep C, CHF with EF 30-35%,
   ESRD on dialysis (Tue/[**Doctor First Name **]/Sat), polysubstance abuse, presents with
   aspitation pneumonia, altered mental status, ileus.
   .
   # Ileus:  CT with ileus vs. partial SBO, but passing gas & stool.
   Unclear etiology, but possibly in setting of cocaine use or abdominal
   infection.
   - Advance to Ice Chips
 advance diet as tolerated
   - Cont NG to suction
 monitor output, if falls consider d/c NG
   - d/c vanc/zosyn
 follow cultures and clinical status
   - AM KUB
   - Serial abdominal exams
   - Appreciate surgery recs
   .
   # Aspiration pneumonia: Patient presented febrile, tachypnic with
   significant O2 requirement and lung base infiltrates.  Given tenuous
   presentation, will cover with antibiotics. Likely pneumonitis, unlikely
   bacterial infection
   - CXR
 post HD
   - oxygen PRN
 wean as tolerated
   - albuterol PRN
   - aspiration precautions
   .
   # Altered mental status: appears to be resolving.  Likely [**2-16**] substance
   use.  Head CT negative.
   - continue to monitor
   .
   # Hypotension: likely secondary to dehydration
   - received 2L NS last night
   - IVF to MAP >60
   .
   # Coronary artery disease:  Right arm pain presentation possibly
   anginal equivalent.  Recent clean cath. Cardiac enzymes trending down,
   CK-MB remain low
   - Statin, dilt
   - Stop trending CE
   - hold on ASA for now given report of GI bleed and low suspicion for
   ACS.
   .
   # CHF: Will be cautious with IVF
   .
   # Bloody stool: History of AVM and bleeding with anticoagulation.  No
   frank blood on exam.  No blood in NG tube.
   - Hold ASA for now
   - Home PPI
   - Type and cross
   - Two large PIVs
   - serial Hct
   .
   # Atrial tachycardia: history of RVR in absence of dilt.  Borderline
   blood pressures currently.
   - half dose dilt in divided doses for now, uptitrate as tolerated.
   .
   # ESRD on Tu/Th/Sa HD: Missed last HD session and now s/p contrast in
   ED. HD yesterday.
   - follow renal recs
   - HD today, goal -1L
   .
   # Hypertension: on dilt, ace inhibitor
   - hold ACE given low BP
   .
   # Diabetes:
   - HISS
   .
   # s/p tooth extraction: currently stable.  One day remaining in
   antibiotics, but will be covered by current regimen.
   .
   # Substance abuse: social work consult.
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: confirmed full
   .
   # Communication: HCP [**Name (NI) 1422**] [**Telephone/Fax (1) 3927**]
   .
   # Disposition: pending above
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2156-8-23**] 04:48 AM
   18 Gauge - [**2156-8-23**] 04:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: No restraints, Need ICU consent
   Communication:  Comments:
   Code status: Full code
   Disposition: If stable today
 call out to floor in PM

2156-08-25 12:30:00 Physician Resident Progress Note
Chief Complaint: 59yo M w CAD s/p MI, DM, AFib, ? Hep C, CHF with EF
   30-35%, ESRD on dialysis (Tue/[**Doctor First Name **]/Sat), polysubstance abuse, presents
   with fever, altered mental status and abdominal pain, in the setting of
   recent cocain use.
   24 Hour Events:
   HD y/d removed 1 L with repeat CXR post dialysis.
   KUB x2 . Ileus resolved on own, NGT dc'd, started on clears.
   Abx dc'd
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-8-24**] 08:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-8-25**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (95 - 104) bpm
   BP: 116/69(80) {103/58(70) - 127/76(87)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 64 kg
                  Total In:
                                                                  2,980 mL
                                                                    280 mL
   PO:
                                                                    180 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  2,800 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    600 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,580 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Cardiovascular: Comfortable on 2LNC
   in sinus, no MRG S1S2 clear
   CTA B
   +ve bs, soft, nt, nd, no masses
   ext wwp
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   249 K/uL
   11.8 g/dL
   213 mg/dL
   5.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   29 mg/dL
   95 mEq/L
   137 mEq/L
   39.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2156-8-23**]  12:00 PM
                             [**2156-8-23**]  05:37 PM
                             [**2156-8-23**]  10:24 PM
                             [**2156-8-24**]  05:18 AM
                             [**2156-8-25**]  03:53 AM
   WBC
   6.3
   5.8
   6.0
   Hct
   36.4
   40.5
   39.4
   Plt
   [**Telephone/Fax (3) 9983**]
   Cr
   4.8
   5.3
   5.1
   TropT
   0.49
   0.46
   0.45
   Glucose
   123
   116
   213
   Other labs: PT / PTT / INR:12.8/29.0/1.1, CK / CKMB /
   Troponin-T:152/6/0.45, ALT / AST:13/16, Alk Phos / T Bili:136/0.8,
   Amylase / Lipase:105/11, Differential-Neuts:72.8 %, Lymph:13.6 %,
   Mono:8.0 %, Eos:5.2 %, Lactic Acid:1.7 mmol/L, LDH:130 IU/L, Ca++:11.0
   mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: none
   Microbiology: sputum from 10th, reas as extensive oral secretions,
   invalid.
   MRSA screen pending, cdiff negative
   blood cx P x 2.
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 COCAINE ABUSE
 PNEUMONIA, ASPIRATION
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   Assessment and Plan
   This is a 59yo M w CAD s/p MI, DM, AFib, ? Hep C, CHF with EF 30-35%,
   ESRD on dialysis (Tue/[**Doctor First Name **]/Sat), polysubstance abuse, presents with
   aspitation pneumonia, altered mental status, ileus. AMS resolved,
   likely secondary to substance abuse, ileus resolved on own. Likely
   aspiration pneumonitis, not pna.
   .
   # Ileus:  CT with ileus vs. partial SBO, but passing gas & stool.
   Unclear etiology, but possibly in setting of cocaine use or abdominal
   infection.
   Tolerated volume of clears without n/v, has had no abd pain , NGT dc
   No pain on exam today.
   Advance diet, cont
   - Serial abdominal exams
   - Appreciate surgery recs
   .
   # Aspiration pneumonia: Patient presented febrile, tachypnic with
   significant O2 requirement and lung base infiltrates.  Given tenuous
   presentation, was covered with antibiotics. Likely pneumonitis,
   unlikely bacterial infection
   Has been afebrile, Abx dc
   - CXR today. On 2LNC wean as tolerated.
   - aspiration precautions
   .
   # Altered mental status: appears to be resolving.  Likely [**2-16**] substance
   use.  Head CT negative.
   - continue to monitor
   .
   # Hypotension: likely secondary to dehydration
   Normotensive with maps ranging 95-120s.
   # Coronary artery disease:  Right arm pain presentation possibly
   anginal equivalent.  Recent clean cath. Cardiac enzymes trending down,
   CK-MB remain low
   - Statin, dilt
   - Stop trending CE
   - hold on ASA for now given report of GI bleed and low suspicion for
   ACS.
   .
   # CHF: Will be cautious with IVF
   .
   # Bloody stool: History of AVM and bleeding with anticoagulation.  No
   frank blood on exam.  No blood in NG tube.
   HCT stable at 39.4.
   Continue to monitor.
   ASA was being held, consider restart.
   # Atrial tachycardia: history of RVR in absence of dilt.  Borderline
   blood pressures currently.
   - half dose dilt in divided doses for now, uptitrate as tolerated.
   .
   # ESRD on Tu/Th/Sa HD: Missed last HD session and now s/p contrast in
   ED. HD yesterday.
   - follow renal recs
   .
   # Hypertension: on dilt, ace inhibitor
   - holding ACE given low BP
   .
   # Diabetes:- HISS
   .
   # s/p tooth extraction: currently stable.  One day remaining in
   antibiotics, but will be covered by current regimen.
   .
   # Substance abuse: social work consult.
   .
   # FEN: No IVF, replete electrolytes, NPO
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals
   .
   # Code: confirmed full
   .
   # Communication: HCP [**Name (NI) 1422**] [**Telephone/Fax (1) 3927**]
   .
   # Disposition: pending above
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   ICU Care
   Nutrition: advance
   Glycemic Control: RISS
   Lines:
   20 Gauge - [**2156-8-23**] 04:48 AM
   18 Gauge - [**2156-8-23**] 04:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: call out